US07825278B2
2-Chloro-N,N-dimethyl-α-[[(4-iodophenyl)amino]methylene]-β-oxobenzenepropanamide
To a suspension of 2-chloro-α-[[(4-iodophenyl)amino]methylene]-β-oxobenzenepropanoic acid (43 mg, 0.10 mmol) in 1 mL of CH2Cl2 was added N,N′-dicyclohexylcarbodiimide (21 mg, 0.10 mmol). The mixture was cooled in an ice bath and 50 μL (0.10 mmol) of a 2M solution of dimethylamine in THF was added. The reaction mixture was stirred at rt for 16 h. The formed DCU was removed by filtration. The filtrate was washed with water and evaporated to dryness. The title compound (22 mg, 50%) was isolated by column chromatography (5% MeOH in CH2Cl2); MS 410 (M−45), 455(M+1), 477(M+Na+).

reactant | 2-chloro-α-[[(4-iodophenyl)amino]methylene]-β-oxobenzenepropanoic acid | 0.10 mmol, 43 mg | ClC1=C(C=CC=C1)C(C(C(=O)O)=CNC1=CC=C(C=C1)I)=O | C16H11ClINO3
reactant | N,N′-dicyclohexylcarbodiimide | 0.10 mmol, 21 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylamine | CNC | C2H7N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Chloro-N,N-dimethyl-α-[[(4-iodophenyl)amino]methylene]-β-oxobenzenepropanamide | 22 mg, 50% | ClC1=C(C=CC=C1)C(C(C(=O)N(C)C)=CNC1=CC=C(C=C1)I)=O | C18H16ClIN2O2
